US07662975B2
Trifluoro-methanesulfonic acid 4-methyl-2-oxo-2H-chromen-6-yl ester (10.38 mg, 33.7 mmol), Zn (CN)2 (4.7 g) and Pd(PPh3)4 (3.8 g) were dissolved in DMF (200 mL) at room temperature in a sealed tube. After 10 min, the reaction mixture was heated to 150° C. for 4 h. The reaction mixture was then cooled to room temperature and ethyl acetate (800 mL) was added. The reaction mixture was then poured into a separation funnel, washed with water (2×400 ml) and brine (2×600 ml). The organic layer was dried over sodium sulfate and concentrated. The product was purified on silica gel eluted with 30-80% ethyl acetate in hexanes to yield 4-methyl-2-oxo-2H-chromene-6-carbonitrile as a white powder.

reactant | Trifluoro-methanesulfonic acid 4-methyl-2-oxo-2H-chromen-6-yl ester | 33.7 mmol, 10.38 mg | CC1=CC(OC2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O | C11H7F3O5S
reactant | ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 3.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-methyl-2-oxo-2H-chromene-6-carbonitrile | CC1=CC(OC2=CC=C(C=C12)C#N)=O | C11H7NO2
